US07176196B2
(4-Fluoro-2-(1H-1,2,4-triazol-1-yl)phenyl)methanamine hydrochloride).
Intermediate 67, 4-fluoro-2-(1H-1,2,4-triazol-1-yl)benzonitrile, (2.46 g, 13.13 mmol) was dissolved in hot ethanol (150 mL). To this was added 1N HCl (15 mL) followed by 10% Pd—C (200 mg). The mixture was treated with H2 at 55 psi for 4 h in a Parr shaker then filtered over Celite and the solvent removed under reduced pressure. The resulting residue was partitioned between ethyl acetate and water. The aqueous phase was separated and lyophilized to afford the title compound as a white powder (2.96 g, 99% yield). 1H NMR (500 MHz, CD3OD) δ ppm: 9.51 (1H, s), 8.63 (1H, s), 7.85 (1H, dd, J=8.5, 5.8 Hz), 7.68 (1H, dd, J=8.8, 2.4 Hz), 7.49 (1H, td, J=8.3, 2.4 Hz), 4.20 (2H, s). LCMS (M+H) calcd for C9H10N4F: 193.08; found: 193.16.

reactant | 4-fluoro-2-(1H-1,2,4-triazol-1-yl)benzonitrile | 13.13 mmol, 2.46 g | FC1=CC(=C(C#N)C=C1)N1N=CN=C1 | C9H5FN4
reactant | HCl | 1N, 15 mL | Cl | ClH
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | Pd—C | 200 mg | [Pd] | Pd
product | (4-Fluoro-2-(1H-1,2,4-triazol-1-yl)phenyl)methanamine hydrochloride | 2.96 g, 99% yield | Cl.FC1=CC(=C(C=C1)CN)N1N=CN=C1 | InChI=1S/C9H9FN4.ClH/c10-8-2-1-7(4-11)9(3-8)14-6-12-5-13-14;/h1-3,5-6H,4,11H2;1H
